US08729273B2
Preparation 36: Synthesis of 2-(1H-indol-5-yl)isonicotinic acid methyl ester
2-Chloroisonicotinic acid methyl ester (1.22 g, 7.11 mmol), 1H-indole-5-boronic acid (1.15 g, 7.13 mmol), 2M-aqueous sodium carbonate solution (10 mL, 20 mmol) and tetrakis(triphenylphosphine)palladium (0.41 g, 0.35 mmol) were dissolved in toluene (140 mL), and stirred for 12 h under reflux. After completion of the reaction, ethyl acetate (200 mL) was added, and washed with aqueous sodium chloride solution. The organic layer was separated, dried over anhydrous magnesium sulfate, concentrated under reduced pressure and purified by column chromatography to give the title compound (440 mg, 1.74 mmol, 25% Yield).

reactant | 2-Chloroisonicotinic acid methyl ester | 7.11 mmol, 1.22 g | COC(C1=CC(=NC=C1)Cl)=O | C7H6ClNO2
reactant | 1H-indole-5-boronic acid | 7.13 mmol, 1.15 g | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | sodium carbonate | 20 mmol, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.35 mmol, 0.41 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1H-indol-5-yl)isonicotinic acid methyl ester | 1.74 mmol, 440 mg, 25% Yield | COC(C1=CC(=NC=C1)C=1C=C2C=CNC2=CC1)=O | C15H12N2O2
